US09238656B2
Synthesis of (1S,2S,3R,4R)-3-(6-Chloro-2-{4-[4-((R)-2-hydroxypropyl)-piperazin-1-ylmethyl]-2-methoxyphenyl}-3H-imidazo[4,5-b]pyridine-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound XLIV)
In a similar fashion as for the synthesis of Compound XLIII, (1S,2S,3R,4R)-3-[6-Chloro-2-(2-methoxy-4-piperazin-1-ylmethyl-phenyl)-3H-imidazo[4,5-b]pyridine-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide was reacted with (R)-(−)-propylene oxide to afford the title compound as an orange solid (32%). Mp 157-9° C. 1H NMR (d-chloroform): 10.72 (br s, 1H), 8.35 (d, J=9 Hz, 1H), 8.05 (s, 1H), 7.04 (m, 2H), 6.37 (m, 3H), 5.56 (d, J=9 Hz, 1H), 5.20 (t, J=8 Hz, 1H), 5.12 (s, 1H), 4.08 (s, 3H), 3.84 (m, 1H), 3.59 (s, 2H), 3.48 (m, 1H), 3.18 (s, 1H), 2.92 (s 1H), 2.88 (d, J=8 Hz, 1H), 2.73 (m, 2H), 2.61-2.41 (m, 5H), 2.37-2.22 (m, 3H), 2.19 (s, 1H), 1.76 (d, J=9 Hz, 1H), 1.15 (d, J=7 Hz, 3H). MS: 566.23 (M+H). HPLC retention time: 1.71 minutes (G Method).

reactant | (1S,2S,3R,4R)-3-[6-Chloro-2-(2-methoxy-4-piperazin-1-ylmethyl-phenyl)-3H-imidazo[4,5-b]pyridine-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | ClC=1C(=C2C(=NC1)NC(=N2)C2=C(C=C(C=C2)CN2CCNCC2)OC)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C26H30ClN7O2
reactant | (R)-(−)-propylene oxide | C1[C@@H](C)O1 | C3H6O
product | (1S,2S,3R,4R)-3-(6-Chloro-2-{4-[4-((R)-2-hydroxypropyl)-piperazin-1-ylmethyl]-2-methoxyphenyl}-3H-imidazo[4,5-b]pyridine-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 32% | ClC=1C(=C2C(=NC1)NC(=N2)C2=C(C=C(C=C2)CN2CCN(CC2)C[C@@H](C)O)OC)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C29H36ClN7O3
